US08685969B2
7. Benzyl 3-(7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate
A burgundy, homogeneous solution of 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-9H-pyrido[3,4-b]indole-1-carboxylic acid (0.1323 g, 0.203 mmol), ammonium chloride (0.043 g, 0.813 mmol), BOP (0.117 g, 0.264 mmol), DIPEA (0.170 mL, 0.976 mmol) and N-methylmorpholine (0.087 mL, 0.793 mmol) in DMF (1.694 mL) was stirred for 1 h. Water (20 mL) was added, and the precipitate was filtered and dried over Drierite to give benzyl the desired product (0.1164 g, 0.179 mmol, 88% yield) as a brown solid.

reactant | 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.203 mmol, 0.1323 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)N2CC(CC2)O[Si](C)(C)C(C)(C)C)C(=O)O)C | C37H42N4O5Si
reactant | ammonium chloride | 0.813 mmol, 0.043 g | [Cl-].[NH4+]
reactant | BOP | 0.264 mmol, 0.117 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIPEA | 0.976 mmol, 0.170 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylmorpholine | 0.793 mmol, 0.087 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.694 mL | CN(C)C=O | C3H7NO
solvent | Water | 20 mL | O | H2O
product | Benzyl 3-(7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate | 0.179 mmol, 0.1164 g, 88% yield | [Si](C)(C)(C(C)(C)C)OC1CN(CC1)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C=3C(=C(C=CC3)NC(OCC3=CC=CC=C3)=O)C)C(N)=O | C37H43N5O4Si
